US04855480
A mixture of methyl 2-(2-chlorobenzylideneaminooxymethyl)-2-methylpropanoate (10.0 grams, 0.04 mole) and borane-pyridine complex (10.4 mL; 0.12 mole) in absolute ethanol (30 mL) was cooled in an ice bath. A solution of anhydrous 6.5N hydrogen chloride in ethanol (60 mL) was then added slowly. Upon completion of addition, the reaction mixture was stirred at ambient temperature for four hours. The reaction mixture was concentrated under reduced pressure, and methylene chloride (50 mL) was added to the residue. Aqueous sodium carbonate was then added to adjust the pH to 6-7. The layers were separated, and the organic layer was dried (magnesium sulfate) and concentrated under reduced pressure to yield a mixture of a white solid and liquid. The liquid was decanted off and purified by chromatography through silica gel, eluting successively with hexane and 20:1 hexane:ethyl acetate. Appropriate fractions were combined and concentrated at reduced pressure to yield 3.1 grams of methyl 2-(2-chlorobenzylaminooxymethyl)-2-methylpropanoate as a colorless liquid.

reactant | methyl 2-(2-chlorobenzylideneaminooxymethyl)-2-methylpropanoate | 0.04 mole, 10.0 grams | ClC1=C(C=NOCC(C(=O)OC)(C)C)C=CC=C1 | C13H16ClNO3
reactant | hydrogen chloride | 6.5N | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | methyl 2-(2-chlorobenzylaminooxymethyl)-2-methylpropanoate | 3.1 grams | ClC1=C(CNOCC(C(=O)OC)(C)C)C=CC=C1 | C13H18ClNO3
